US08563541B2
Intermediate A-3: 3-ethynyl-2-fluoropyridine
2-Fluoro-3-[(trimethylsilyl)ethynyl]pyridine (8.8 g, 0.046 mol) was dissolved in a mixture of tetrahydrofuran (20 mL) and water (2 mL). A 1.0 M solution of tetra-n-butylammonium fluoride (12 g, 0.046 mol) in THF (46 ml) was then added dropwise at 0° C., and the reaction mixture was stirred for 1 hour. The reaction was extracted with ethyl acetate, and the combined organic extracts were washed with brine (3×), dried over MgSO4 and concentrated. The crude was purified via column chromatography on silica gel (10% ethyl acetate: 90% hexanes) to provide 4.8 g of the desired product. 1H NMR (400 MHz, CDCl3): δ 8.20 (m, 1H), 7.88-7.92 (m, 1H), 7.17-7.21 (m, 1H), 3.40 (s, 1H).

reactant | 2-Fluoro-3-[(trimethylsilyl)ethynyl]pyridine | 0.046 mol, 8.8 g | FC1=NC=CC=C1C#C[Si](C)(C)C | C10H12FNSi
reactant | tetra-n-butylammonium fluoride | 0.046 mol, 12 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | THF | 46 ml | C1CCOC1 | C4H8O
product | 3-ethynyl-2-fluoropyridine | 4.8 g | C(#C)C=1C(=NC=CC1)F | C7H4FN
